Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with a PMH of severe dementia, AV block s/p pacemaker, 
diabetes who presented to ___ from Atria memory unit 
with weakness, and was transferred to ___ for hypernatremia. 

History is obtained from ___ notes and step daughter 
___, over the phone who is in ___). Per notes, she was last 
known to be at her baseline about a week ago. Over the past 2 
days there has been gradual increasing weakness (moderate to 
severe). In this time she has not had any PO intake. She has a 
MOLST form that indicates DNR/DNI, do not hospitalize. ___ 
(___) was called by the facility on ___ evening and they 
recommended transfer to hospital which was done despite the 
MOLST. 

At ___: Labs: WBC 11.3, hgb 13, plts 212, Na 162, Cl 125, 
bicarb 25, BUN 64, Cr 1.4, gluc 335. UA neg ___, neg nitr, neg 
protein, neg ket,+glucose. Transferred to ___ ___

At ___ ___: VS: Temp: 96.0 HR: 77 BP: 132/77 Resp: 18 O2 Sat: 
95 Labs: WBC 10, Na 164, gluc 303. Stox neg. CT head negative 
for acute abnormality (shows old stroke) Exam: dehydrated Meds: 
given 200mL of D5W, Na 164-->161. then given D5W 50mL/hr +NS 
75mL/hr. 8U regular insulin given. 

On Hospital floor- patient is comfortable appearing but not able 
to answer questions. She grunts in response to questions. Not 
following any commands. 

I talked to ___ on the phone who let me know she 
would like to pursue comfort care for her step mother. She does 
not want artificial hydration or nutrition. She thinks it would 
be in ___ best interest to pursue Hospice care back at the 
___ unit. ___ has no family in Mass-- only family is step 
daughter and son who live in ___ reports they tried to 
transfer ___ to ___ however it was not permitted by judge (due 
to ___ being comfortable and doing well in Mass). 

ROS: unable to obtain due to patients dementia 
 
Past Medical History:
Dementia
AV block s/p pacemaker. 
HTN
HLD
 
Social History:
___
Family History:
unable to obtain due to patient's dementia. 
 
Physical Exam:
ADMISSION: 
=========
VITALS: Afebrile and vital signs stable 
GENERAL: Alert and in no apparent distress, laying in bed. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI.
does not follow commands.  responds to questions with
verbalization but not forming words. 
PSYCH: pleasant appearing. 

The patient was examined on discharge. 
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
==========================
___ 01:35AM BLOOD WBC-10.4* RBC-4.13 Hgb-12.2 Hct-40.7 
MCV-99* MCH-29.5 MCHC-30.0* RDW-13.1 RDWSD-47.2* Plt ___
___ 07:35AM BLOOD Glucose-395* UreaN-48* Creat-1.1 Na-161* 
K-4.1 Cl-124* HCO3-23 AnGap-14
___ 01:35AM BLOOD Osmolal-365*
 
Brief Hospital Course:
___ with a PMH of severe dementia, AV block s/p pacemaker, 
diabetes who presented to ___ from ___ memory unit 
with weakness, and was transferred to ___ for hypernatremia. 
Now s/p GOC discussion with HCP/family and decision made for 
DNR/DNI. 

#Severe Dementia/ goals of care.
Patient with long standing severe dementia and has been living 
in a memory care unit for several years. In the setting of 
progressive end stage dementia, she became progressively weak in 
the setting of not taking any PO. She was noted to have 
hypernatremia of 161 upon presentation. Patient with 
guardianship paperwork that clearly documents that she would not 
want to pursue artificial means of nutrition or hydration. 
Discussed case with step daughter/HCP ___ who confirmed this 
care preference. In the setting of end stage dementia, decision 
was made to stop checking labs and transition to comfort focused 
care. Patient can eat for comfort. At the time of discharge, 
patient without any distress and not requiring any medications 
for pain, agitation, or anxiety. These medications may become 
necessary and will be left to the discretion of the ___ 
facility.   

# Complete Heart Block s/p PPM: 
Patient has a pacemaker but does NOT have an ICD. Pacemaker to 
continue as stopping would cause immediate death. Patient will 
not get shocked as she does not have an ICD. 

TRANSITIONAL ISSUES: 
===================
[] Patient may eat for comfort, but suspect she does not have a 
hunger/thirst drive due to advanced dementia. 
[] Not requiring any comfort medications at this time, but will 
need ongoing assessment. Initiation at the discretion of the 
___ facility.

> 30 mins spent on coordinating discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Memantine 10 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
4. Sertraline 25 mg PO DAILY 
5. Simvastatin 5 mg PO QPM 
6. Cyanocobalamin 500 mcg PO DAILY 

 
Discharge Medications:
None (comfort meds to be added at discretion of hospice 
providers as need arises) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Failure to thrive 
# End stage dementia
# Hypernatremia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for ___ at the ___ Deaconess. 
___ were admitted with weakness in the setting of not taking in 
enough food and drink. We discussed your care with your 
___, and the decision was made to take a comfort-focused 
approach. ___ are being discharged to a hospice house for 
further care. 

Sincerely,
Your ___ Team 
 
Followup Instructions:
___